US07470716B2
2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylic acid
A solution of 4.40 g ethyl 2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate in 28 ml 4 M potassium hydroxide solution and 20 ml of tetrahydrofuran is stirred for 14 h at 100° C. Then the solution is neutralized with 2 M hydrochloric acid and extracted with dichloromethane. The combined organic extracts are dried over sodium sulphate and evaporated to dryness.

reactant | ethyl 2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate | 4.40 g | C(C)(C)(C)OC(=O)NC1CN(CCC1)C1=NC=C(N1CC#CC)C(=O)OCC | C20H30N4O4
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | potassium hydroxide | 4 M, 28 ml | [OH-].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1CN(CCC1)C1=NC=C(N1CC#CC)C(=O)O | C18H26N4O4
